US05318992
Mix 5-[(2-(carbethoxyhydrazino)-ethyl)]-hydantoin (2.3 g, 10 mmol), barium hydroxide octahydrate (18.15 g, 10 mmol) and water (55 mL). Reflux for 12 hours, remove the white solid by filtration, extract the filter cake with boiling water (25 ml) and finally wash with hot water (25 mL). Combine the filtrate and washings, treat with ammonium carbonate (5.7 g) and heat with stirring. Filter off the barium carbonate, wash the filter cake with hot water and evaporate the filtrate and washings in vacuo to give 2-amino-4-hydrazino-butanoic acid.

reactant | 5-[(2-(carbethoxyhydrazino)-ethyl)]-hydantoin | 10 mmol, 2.3 g | C(=O)(OCC)NNCCC1C(NC(N1)=O)=O | C8H14N4O4
reactant | barium hydroxide octahydrate | 10 mmol, 18.15 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | water | 55 mL | O | H2O
product | 2-amino-4-hydrazino-butanoic acid | NC(C(=O)O)CCNN | C4H11N3O2
